US05212187
N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.33 g (1.05 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a dry foam. MS (+FAB method): m/z (rel. int. [%])=574 ([M+H]+, 9), 109 (100) IR (KBr): 1682 cm-1 (C=O).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 1.05 mmol, 0.33 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
product | N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | FC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCNC(=O)NCCSCC=2N=C(SC2)NC(=N)N)C=C1 | C26H36FN9OS2
